US07786132B2
(iv) 4-(Benzo[b]thiophen-2-yl)-2-chloro-5-(trifluoromethyl)pyrimidine
4-(Benzo[b]thiophen-2-yl)-5-(trifluoromethyl)pyrimidin-2-ol (0.28 g, 0.94 mmol) was treated with phosphorous oxychloride (6 mL) and the mixture was heated to 100° C. overnight. The volatiles were removed in vacuo and residual phosphorous oxycloride was azeotroped with toluene. The resulting residue was dissolved in chloroform, washed successively with cold water, saturated aqueous solution of sodium bicarbonate, water again and brine. The organic solution was dried with sodium sulfate and passed through a plug of silica gel. The filtrate was concentrated to yield a yellow solid (0.2 g). MS (M+H)+ 315.

reactant | 4-(Benzo[b]thiophen-2-yl)-5-(trifluoromethyl)pyrimidin-2-ol | 0.94 mmol, 0.28 g | S1C2=C(C=C1C1=NC(=NC=C1C(F)(F)F)O)C=CC=C2 | C13H7F3N2OS
reactant | phosphorous oxychloride | 6 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-(Benzo[b]thiophen-2-yl)-2-chloro-5-(trifluoromethyl)pyrimidine | 0.2 g | S1C2=C(C=C1C1=NC(=NC=C1C(F)(F)F)Cl)C=CC=C2 | C13H6ClF3N2S
